US08859580B2
2,2,2-Trifluoro-1-[(6R,10S)-5,6,7,8,9,10-hexahydro-10,12,12-trimethyl-6,10-methano-1H-triazolo[5,4-i][3]benzazocin-7-yl]-ethanone
A solution of NaNO2 (330 mg) in water (2 mL) is slowly added to a flask charged with a stir bar, 1-[(2R,6S)-8,9-diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone (650 mg), and acetic acid (15 mL) and chilled in an ice bath. The resulting mixture is stirred in the cooling bath for 2 h and at ambient temperature for 1 h. Then, the solution is poured into ice-cold water and the precipitate formed is separated by filtration and dried to afford the title compound that is used without further purification.

reactant | NaNO2 | 330 mg | N(=O)[O-].[Na+]
reactant | 1-[(2R,6S)-8,9-diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone | 650 mg | NC1=CC2=C(C[C@H]3N(CC[C@@]2(C3(C)C)C)C(C(F)(F)F)=O)C=C1N | C17H22F3N3O
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | 2,2,2-Trifluoro-1-[(6R,10S)-5,6,7,8,9,10-hexahydro-10,12,12-trimethyl-6,10-methano-1H-triazolo[5,4-i][3]benzazocin-7-yl]-ethanone | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=C2C(=C3)N=NN2)(F)F | C17H19F3N4O
